US04772600
(R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid
A solution of (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester (42.5 g, 0.127 mole) in ethylene glycol 8250 ml) was refluxed under nitrogen atmosphere for one hour and then cooled. Water (40 ml) and solid potassium hydroxide pellets (10.13 g, 0.181 mole) were added and the solution was refluxed for an additional two hours, filtered into ice water (1 liter) and acidifed with 3N hydrochloric acid solution to give a solid which was collected by filtration and rinsed with water to give 29 g of crude title compound (76% yield). A 3.5-g portion of the solid was recrystallized twice from isopropyl alcohol/water and dried under high vaccum at 50° C. overnight to give 1.81 g of title compound, mp 225°-227° C.

reactant | (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester | 0.127 mole, 42.5 g | COC([C@H](NC1=NC=CC=C1NC(C1=CC=C(C=C1)Cl)=O)C)=O | C16H16ClN3O3
reactant | Water | 40 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | 8250 ml | C(CO)O | C2H6O2
product | (R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 1.81 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@@H](C(=O)O)C | C15H12ClN3O2
